US06410530B1
3′,4′-Dihydro-8′-[4-methyl(piperazin-1-yl)]-spiro-[1,3-dioxolane-2,2′(1H)-naphthalene]
8′-Bromo-3′,4′-dihydrospiro-[1,3-dioxolane-2,2′(1H)-naphthalene] (6.0 g, 22 mmol; described in Sunkyung L.; Stewart P. F.; David E. N. Synth. Commun. 1995, 25(18), 2775-2780) was dissolved in toluene (180 mL) and flushed with argon. N-Methylpiperazine (3.0 mL, 27 mmol), R(+)-bis(diphenylphosphino)-1,1′-binaphthyl (830 mg, 1.3 mmol), tetrakis(dibenzylideneacetone)dipalladium (0) (510 mg, 0.45 mmol) and sodium t-butoxide (3.0 g, 31 mmol) were added and the reaction mixture was stirred at 85° C. for 2.5 h. After cooling to room temperature ethyl acetate (400 mL) and 2 M ammonia (60 mL) were added. The phases were separated and the organic layer was washed with 2 M ammonia (30 mL), brine (40 mL) and dried (MgSO4). Evaporation of the solvent gave 7.5 g of a crude product. Purification by column chromatography on silica using chloroform/methanol/conc. NH3 (180:5:0.5) as eluent afforded 5.5 g (84% yield) of the title compound as a yellowish solid: mp 127-128° C.; EIMS (70 eV) m/z (relative intensity) 288 (43, M+).

reactant | 8′-Bromo-3′,4′-dihydrospiro-[1,3-dioxolane-2,2′(1H)-naphthalene] | 22 mmol, 6.0 g | BrC=1C=CC=C2CCC3(CC12)OCCO3 | C12H13BrO2
reactant | N-Methylpiperazine | 27 mmol, 3.0 mL | CN1CCNCC1 | C5H12N2
reactant | sodium t-butoxide | 31 mmol, 3.0 g | CC(C)([O-])C.[Na+]
reactant | ethyl acetate | 400 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 180 mL | C1(=CC=CC=C1)C | C7H8
solvent | NH3 | N | H3N
solvent | ammonia | 2 M, 60 mL | N | H3N
product | 3′,4′-Dihydro-8′-[4-methyl(piperazin-1-yl)]-spiro-[1,3-dioxolane-2,2′(1H)-naphthalene] | 5.5 g, 84% yield | CN1CCN(CC1)C=1C=CC=C2CCC3(CC12)OCCO3 | C17H24N2O2
